US09353082B2
N-cyclohexyl-N-methyl-4-(4-(sulfamoylamino)phenyl)-1H-imidazole-1-carboxamide
Sulfamide (0.089 g, 0.922 mmol) was added to a stirred suspension of 4-(4-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide (0.250 g, 0.838 mmol) in dioxane (2 mL) at room temperature. The suspension was heated at reflux for 4 h to give a clear solution, whereupon more sulfamide (0.089 g, 0.922 mmol) was added and the mixture was heated at reflux for a further 2.5 h. The solvent was removed and the brown residue was purified by chromatography (silica, dichloromethane/methanol, 1%, 2%, 5%). Homogenous fractions were pooled and evaporated. The residue was triturated with ethyl acetate and the colourless solid that formed was removed by filtration. The filtrate was evaporated and purified again by preparative TLC (silica, dichloromethane/10% methanol). The product was extracted from the silica with a mixture of ethyl acetate/10% methanol. Evaporation of the solvent gave a clear oil, that was triturated with a mixture of ethyl acetate and methanol to give the product as an off-white solid (19 mg, 6%).

reactant | Sulfamide | 0.922 mmol, 0.089 g | S(=O)(=O)(N)N | H4N2O2S
reactant | 4-(4-aminophenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 0.838 mmol, 0.250 g | NC1=CC=C(C=C1)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C17H22N4O
reactant | sulfamide | 0.922 mmol, 0.089 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-cyclohexyl-N-methyl-4-(4-(sulfamoylamino)phenyl)-1H-imidazole-1-carboxamide | 19 mg, 6% | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C1=CC=C(C=C1)NS(N)(=O)=O)C | C17H23N5O3S
